US07301032B2
710 mg of 3-methylthio-5-cyclopentyl-1,2,4-thiadiazole was dissolved in 15 ml of chloroform, 1.89 g of 3-chloroperoxybenzoic acid (content>65%) was added thereto, and the reaction mixture was stirred for 30 minutes under ice-cooling and for 3.5 hours at room temperature. Then, the reaction mixture was added to saturated sodium hydrogensulfite aqueous solution, and separated. The organic layer was washed with sodium hydrogencarbonate aqueous solution, dried over anhydrous sodium sulfate, concentrated to give 804 mg of 3-methylsulfonyl-5-cyclopentyl-1,2,4-thiadiazole.

reactant | 3-methylthio-5-cyclopentyl-1,2,4-thiadiazole | 710 mg | CSC1=NSC(=N1)C1CCCC1 | C8H12N2S2
reactant | 3-chloroperoxybenzoic acid | 1.89 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-methylsulfonyl-5-cyclopentyl-1,2,4-thiadiazole | 804 mg | CS(=O)(=O)C1=NSC(=N1)C1CCCC1 | C8H12N2O2S2
